US05256820
1-Acetyl-1,2-bis(methylsulfonyl)-2-(2-chloroethyl)hydrazine.
To a stirred solution of 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)hydrazine (1.5 g, 0.006 mol) and acetic anhydride (4.3 g, 0.042 mol) in dry acetone (50 mL), triethylamine (3.6 g, 0.035 mol) was added dropwise at room temperature. After an additional 16 h, the reaction mixture was evaporated to dryness. The residue was taken up in ethyl acetate (50 mL) and washed with dilute hydrochloric acid (3×10 mL), followed by water (3×10 mL). The ethyl acetate layer was dried over anhydrous magnesium sulfate, treated with charcoal and filtered. On evaporation of the solvent a solid was obtained which, on recrystallization from ethanol, gave 1.1 g (62.8%) of the title compound: mp 148°-149° C.; 1H NMR (acetone-d6) δ 3.8-4.2 (m, 4 H, CH2CH2), 3.5 and 3.3 (2 s, 6 H, 2CH3SO 2), 2.4 (s, 3 H, CH3CO). Anal. (C6H13C1N2O5S2) C, H, N.

reactant | 1,2-bis(methylsulfonyl)-1-(2-chloroethyl)hydrazine | 0.006 mol, 1.5 g | CS(=O)(=O)N(NS(=O)(=O)C)CCCl | C4H11ClN2O4S2
reactant | acetic anhydride | 0.042 mol, 4.3 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.035 mol, 3.6 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 1-Acetyl-1,2-bis(methylsulfonyl)-2-(2-chloroethyl)hydrazine | 1.1 g, 62.8% | C(C)(=O)N(N(CCCl)S(=O)(=O)C)S(=O)(=O)C | C6H13ClN2O5S2
